US07700774B2
Step (ix): Preparation of 4-Amino-2-ethyl-6,8-dimethyl-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester
This compound can be prepared by reacting a solution of 2-ethyl-4-hydroxyimino-6,8-dimethyl-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester in acetic acid with Zn (5 to 10 eqv), typically at reflux temperature, for about 1 h to about 5 h, followed by a typical workup procedure.

reactant | 2-ethyl-4-hydroxyimino-6,8-dimethyl-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(CC(C2=CC(=NC(=C12)C)C)=NO)CC | C15H21N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Zn | 5 to 10 eqv | [Zn] | Zn
product | 4-Amino-2-ethyl-6,8-dimethyl-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(CC(C2=CC(=NC(=C12)C)C)N)CC | C15H23N3O2
